US09353096B2
In a 2 ml vial, thiomorpholine 1,1-dioxide (200 mg, 1.48 mmol) was combined with acetonitrile (5.33 ml) to give a colorless solution. (S)-2-(trifluoromethyl)oxirane (332 mg, 257 μl, 2.96 mmol) was added and the resultant mixture was stirred at room temperature for 2 h. The crude reaction mixture was concentrated in vacuo to afford 120 mg of (S)-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-1,1,1-trifluoro-propan-2-ol as an oil, which was used without further purification.

reactant | thiomorpholine 1,1-dioxide | 1.48 mmol, 200 mg | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | (S)-2-(trifluoromethyl)oxirane | 2.96 mmol, 257 μl, 332 mg | FC([C@H]1OC1)(F)F | C3H3F3O
solvent | acetonitrile | 5.33 ml | C(C)#N | C2H3N
product | (S)-3-(1,1-dioxo-1λ6-thiomorpholin-4-yl)-1,1,1-trifluoro-propan-2-ol | 120 mg | O=S1(CCN(CC1)C[C@@H](C(F)(F)F)O)=O | C7H12F3NO3S
